US05849921
1-(3-Aminophenyl)-1-(4-methyl-5-thiazolyl)methanol
1-(4-Methyl-5-thiazolyl)-1-(3-nitrophenyl)methanol (2 g) and 10% palladium on charcoal (200 mg) in ethanol (60 ml) were shaken overnight under an atmosphere of hydrogen. The mixture was filtered and the filtrate was evaporated to dryness. The residue was converted into the hydrochloride salt, recrystallised and then reconverted into the title compound. M.p. 137°-138° C.

reactant | 1-(4-Methyl-5-thiazolyl)-1-(3-nitrophenyl)methanol | 2 g | CC=1N=CSC1C(O)C1=CC(=CC=C1)[N+](=O)[O-] | C11H10N2O3S
catalyst | palladium on charcoal | 200 mg | [Pd] | Pd
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | 1-(3-Aminophenyl)-1-(4-methyl-5-thiazolyl)methanol | NC=1C=C(C=CC1)C(O)C1=C(N=CS1)C | C11H12N2OS
